US07205297B2
A mixture of 0.28 g of 4-chloro-5-(4-Chlorophenylethynyl)pyrimidine, 10 mL of ethanol and 0.14 g of 4-hydroxyaniline was stirred at room temperature for 18 hours. The black mixture was evaporated in vacuo and the residue was triturated with dichloromethane, ethylacetate and acetonitrile. The combined organic extracts were absorbed on silica gel and evaporated in vacuo. The powder was added to a column of silica gel equilibrated in dichloromethane and eluted with the same solvent. The column was eluted with ethyl acetate and then 10% methanol in dichloromethane. These eluates on evaporation produced 100 mg of the 5-(4-chlorophenylethynyl)-4-(4-hydroxyanilino)pyrimidine hydrochloride as a muddy yellow powder.

reactant | 4-chloro-5-(4-Chlorophenylethynyl)pyrimidine | 0.28 g | ClC1=NC=NC=C1C#CC1=CC=C(C=C1)Cl | C12H6Cl2N2
reactant | 4-hydroxyaniline | 0.14 g | OC1=CC=C(N)C=C1 | C6H7NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(4-chlorophenylethynyl)-4-(4-hydroxyanilino)pyrimidine hydrochloride | 100 mg | Cl.ClC1=CC=C(C=C1)C#CC=1C(=NC=NC1)NC1=CC=C(C=C1)O | InChI=1S/C18H12ClN3O.ClH/c19-15-5-2-13(3-6-15)1-4-14-11-20-12-21-18(14)22-16-7-9-17(23)10-8-16;/h2-3,5-12,23H,(H,20,21,22);1H
